US07396844B1
Synthesis of N-t-butoxycarbonyl-3-hydroxybenzamidine
1 g (5.8 mmol) of 3-hydroxybenzamidine hydrochloride, 1.27 g (5.8 mmol)) of di-t-butyl dicarbonate, 24 mg (0.2 mmol) of 4-(dimethylamino)pyridine and 1.30 g (12.8 mmol) of triethylamine were dissolved in 20 ml of dimethylformamide, and the obtained solution was stirred at room temperature overnight. The reaction liquid was poured into water. After the extraction with ethyl acetate, the organic layer was extracted with 1 N aqueous sodium hydroxide solution. The aqueous layer was made weakly alkaline with concentrated hydrochloric acid and then treated with ethyl acetate as the extractant in an ordinary manner to obtain the title compound.

reactant | 3-hydroxybenzamidine hydrochloride | 5.8 mmol, 1 g | Cl.OC=1C=C(C(=N)N)C=CC1
reactant | di-t-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 12.8 mmol, 1.30 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
catalyst | 4-(dimethylamino)pyridine | 0.2 mmol, 24 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | N-t-butoxycarbonyl-3-hydroxybenzamidine | C(C)(C)(C)OC(=O)NC(C1=CC(=CC=C1)O)=N | C12H16N2O3
